US04435208
19 g of 5-(2,6-dichloro-4-trifluoromethylphenoxy)-2-nitro-benzaldehyde, 5.7 g of ethyl cyanoacetate, 0.6 g of acetic acid, 0.3 g of piperidine and 120 ml of toluene were mixed and heated to the boil for 6 hours under a water separator. 200 ml of toluene was then added and the organic phase was washed with water. The solvent was distilled from the organic phase and the residue was caused to crystallise by digestion with methanol. 12.5 g (53% of theory) of ethyl 2-cyano-3-(5-(2,6-dichloro-4-trifluoromethylphenoxy)-2-nitro-phenyl)-propenoate, of melting point 99° C., were obtained in the form of pale yellow crystals.

reactant | 5-(2,6-dichloro-4-trifluoromethylphenoxy)-2-nitro-benzaldehyde | 19 g | ClC1=C(OC=2C=CC(=C(C=O)C2)[N+](=O)[O-])C(=CC(=C1)C(F)(F)F)Cl | C14H6Cl2F3NO4
reactant | ethyl cyanoacetate | 5.7 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | acetic acid | 0.6 g | C(C)(=O)O | C2H4O2
reactant | piperidine | 0.3 g | N1CCCCC1 | C5H11N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-cyano-3-(5-(2,6-dichloro-4-trifluoromethylphenoxy)-2-nitro-phenyl)-propenoate | 12.5 g, 53% | C(#N)C(C(=O)OCC)=CC1=C(C=CC(=C1)OC1=C(C=C(C=C1Cl)C(F)(F)F)Cl)[N+](=O)[O-] | C19H11Cl2F3N2O5
